US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-carbamoyl-2-cyclopropyl-ethyl)-amide
The title compound was synthesized in analogy to Example 6, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g) and (S)-α-amino-cyclopropanepropanamide (CAN 156077-93-9) as starting materials, and isolated (22 mg, 30%) as light yellow oil; LC-MS (UV peak area, ESI) 100%, 345.1929 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (S)-α-amino-cyclopropanepropanamide | N[C@H](C(=O)N)CC1CC1 | C6H12N2O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-carbamoyl-2-cyclopropyl-ethyl)-amide | C(N)(=O)[C@H](CC1CC1)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C18H24N4O3
